US04585780
3-Benzyloxy-2-methyl-4-pyrone, prepared as described under Example 10, is reacted with 3-hydroxypropylamine under substantially similar conditions to those described under Example 9 for reaction with 2-hydroxyethylamine to give 3-benzyloxy-1-(3'-hydroxypropyl)-2-methylpyrid-4-one. This is deprotected using the procedure described under (I) to give 3-hydroxy-1-(3'-hydroxypropyl)-2-methylpyrid-4-one as white crystals, m.p. 111°-113° C.; νmax (nujol) 1630, 3150, 3350 cm-1, δ(d6DMSO) 1.8 (m, 2H), 2.4 (s, 3H), 3.35 (t, 2H), 4.33 (t, 2H), 7.3 (d, 1H), 8.2 (d, 1H).

reactant | 3-Benzyloxy-2-methyl-4-pyrone | C(C1=CC=CC=C1)OC1=C(OC=CC1=O)C | C13H12O3
reactant | 3-hydroxypropylamine | OCCCN | C3H9NO
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
product | 3-benzyloxy-1-(3'-hydroxypropyl)-2-methylpyrid-4-one | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCCO)C | C16H19NO3
